US06020345
Preparation of 6-fluoropyridine-2-carbaldehyde (IVa)
30 g of 2-fluoro-6-methylpyridine (270 mmol) and 70 g of tert-butoxybis(dimethylamino)methane (405 mmol) are mixed under a nitrogen atmosphere. The mixture is heated at 140° C. for 24 hours. The mixture is diluted with 50 ml of tetrahydrofuran and the solution obtained is added dropwise to an aqueous solution of 115 g of sodium periodate (538 mmol). The mixture is stirred overnight at room temperature, the precipitate formed is removed by filtration and then the tetrahydrofuran is evaporated off. The residue is extracted with dichloromethane, the organic phase is dried over magnesium sulfate, filtered and then the solvent is evaporated under vacuum. The title product is isolated by distillation in a bulb oven, b.p.77 : 70-80° C. 34 g of a yellow oil containing about 20% of N,N-dimethylformamide are recovered.

reactant | 2-fluoro-6-methylpyridine | 270 mmol, 30 g | FC1=NC(=CC=C1)C | C6H6FN
reactant | tert-butoxybis(dimethylamino)methane | 405 mmol, 70 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | sodium periodate | 538 mmol, 115 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-fluoropyridine-2-carbaldehyde | FC1=CC=CC(=N1)C=O | C6H4FNO
